US07741327B2
In a flask under argon was placed dichloromethane (10 mL) and a 2M solution of oxalyl chloride in dichloromethane (1.43 mL, 2.85 mmol) cooled to −78° C. To this mixture was slowly added dimethyl sulfoxide (303 μL, 4.26 mmol) and gas evolution occurred. The mixture was stirred at −78° C. for 30 min. After this time, a solution of bicyclo[2.2.1]hept-7-yl-methanol (180 mg, 1.43 mmol) in dichloromethane (5 mL) was added dropwise. The mixture was stirred at −78° C. for another 15 min and triethylamine (784 μL, 5.58 mmol) was added and the reaction was slowly warmed to 0° C. and stirred for 1 h. After this time, the mixture was quenched with a 1M aqueous sodium bisulfate solution (15 mL) and extracted with dichloromethane (3×10 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by AnaLogix IntelliFlash flash chromatography system (4 g column, 10% ethyl acetate/hexanes) afforded bicyclo[2.2.1]heptane-7-carbaldehyde (170 mg, 96%).

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 4.26 mmol, 303 μL | CS(=O)C | C2H6OS
reactant | bicyclo[2.2.1]hept-7-yl-methanol | 1.43 mmol, 180 mg | C12CCC(CC1)C2CO | C8H14O
reactant | triethylamine | 5.58 mmol, 784 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.85 mmol, 1.43 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | bicyclo[2.2.1]heptane-7-carbaldehyde | 170 mg, 96% | C12CCC(CC1)C2C=O | C8H12O
